US07645764B2
4-Amino-tetrahydropyran (11 mg, 0.106 mmol) was dissolved in 2 mL THF, and N-cyclopropyl-3-(2-methanesulfonyl-8-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-yl)-4-methyl-benzamide (21 mg, 0.051 mmol) was added. The reaction mixture was stirred for 6.5 hours at room temperature, and then 1 mL MeOH was added. The resulting mixture was loaded directly onto a preparative TLC plate and eluted with 5% MeOH in methylene chloride to give N-cyclopropyl-4-methyl-3-[8-methyl-7-oxo-2-(tetrahydro-pyran-4-ylamino)-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-yl]-benzamide: MS (M+H)=434; MP=239.3-241.0° C.

reactant | 4-Amino-tetrahydropyran | 0.106 mmol, 11 mg | NC1CCOCC1 | C5H11NO
reactant | N-cyclopropyl-3-(2-methanesulfonyl-8-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-yl)-4-methyl-benzamide | 0.051 mmol, 21 mg | C1(CC1)NC(C1=CC(=C(C=C1)C)C1=CC2=C(N=C(N=C2)S(=O)(=O)C)N(C1=O)C)=O | C20H20N4O4S
reactant | MeOH | 1 mL | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-cyclopropyl-4-methyl-3-[8-methyl-7-oxo-2-(tetrahydro-pyran-4-ylamino)-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-yl]-benzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)C1=CC2=C(N=C(N=C2)NC2CCOCC2)N(C1=O)C)=O | C24H27N5O3
